US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(4-pyridyloxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 4-hydroxypyridine were reacted as starting materials at 150° C. for 22 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow crystalline powder (201.6 mg, 85.2%). Melting point: 186.8-188.8° C. (hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 4-hydroxypyridine | OC1=CC=NC=C1 | C5H5NO
product | 3,4-bis(4-methoxyphenyl)-6-(4-pyridyloxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC=NC=C1 | C23H19N3O3
